US06790860B2
To 3.19 g (6.67 mmol, 1 eq) (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 10 ml CH2Cl2 were added 1.35 ml (8.0 mmol, 1.2 eq) EtNiPr2, followed by 2.07 g (8.0 mmol, 1.2 eq) 9-fluorenylmethyl chloroformate and a catalytic amount of DMAP at 0° C. The solution was stirred at room temperature overnight, 5% NaHCO3 solution was added (pH 9), the layers were separated and the inorganic one was extracted with CH2Cl2. The combined organic layers were washed with 1M KHSO4 and brine, dried over Na2SO4 and evaporated. The crude product was purified by flash chromatography with EtOAc/hexane 1:3 as eluent yielding 3.81 g (82%) (2S,4R)-2-{[(2,5-difluoro-benzyl)-(9H-fluoren-9-ylmethoxy-carbonyl)-amino]-methyl}-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as white foam, which was subjected to the next reaction directly.

reactant | (2S,4R)-2-[(2,5-difluoro-benzylamino)-methyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.67 mmol, 3.19 g, 1 eq | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CNCC1=C(C=CC(=C1)F)F | C25H32F2N2O3S
reactant | EtNiPr2 | 8.0 mmol, 1.35 ml, 1.2 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 9-fluorenylmethyl chloroformate | 8.0 mmol, 2.07 g, 1.2 eq | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-2-{[(2,5-difluoro-benzyl)-(9H-fluoren-9-ylmethoxy-carbonyl)-amino]-methyl}-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.81 g, 82% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=C(C=CC(=C1)F)F | C40H42F2N2O5S
